US07842688B2
d) 8-Hydroxymethyl-4,4-dimethyl-1-(2-trimethylsilanylethoxymethyl)-3,4-dihydro-1H-quinolin-2-one
Analogously to Example 129c, 0.68 g of 4,4-dimethyl-8-(tetrahydropyran-2-yloxymethyl)-1-(2-trimethylsilanylethoxymethyl)-3,4-dihydro-1H-quinolin-2-one and 0.041 g of pyridinium p-toluenesulphonate are reacted. The title compound is obtained as a yellowish oil. Rf=0.55 (1:1 EtOAc-heptane); Rt=4.78.

reactant | 4,4-dimethyl-8-(tetrahydropyran-2-yloxymethyl)-1-(2-trimethylsilanylethoxymethyl)-3,4-dihydro-1H-quinolin-2-one | 0.68 g | CC1(CC(N(C2=C(C=CC=C12)COC1OCCCC1)COCC[Si](C)(C)C)=O)C | C23H37NO4Si
reactant | pyridinium p-toluenesulphonate | 0.041 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 8-Hydroxymethyl-4,4-dimethyl-1-(2-trimethylsilanylethoxymethyl)-3,4-dihydro-1H-quinolin-2-one | OCC=1C=CC=C2C(CC(N(C12)COCC[Si](C)(C)C)=O)(C)C | C18H29NO3Si
